US07524847B2
4-[3-Benzyl-7-(2-carbamoylphenoxy)-1-(2-cyanobenzyl)-2-oxo-2,3-dihydro-1H-imidazo[4.5-c]p yridin-4-yl]-piperazine-1-carboxylic acid t-butyl ester
Salicylamide (0.056 g), cesium carbonate (0.130 g), 2,2,6,6-tetramethyl-3,5-heptanedione (0.005 mL), and copper(I) chloride (0.010 g) were added to a solution of 4-[3-benzyl-7-bromo-1-(2-cyanobenzyl)-2-oxo-1H-imidazo[4.5-c]pyridin-4-yl]-piperazine-1-car boxylic acid t-butyl ester (0.123 g) in 1-methyl-2-pyrolidone (2 mL). This was then heated at 130° C. for 22 hours under a nitrogen atmosphere. The reaction solution was cooled, t-butyl methyl ether was added, and this was filtered through celite. The celite was washed with ethyl acetate (25 mL), and the organic layers were combined, and then washed sequentially with 2 N hydrochloric acid (10 mL), 0.5 N hydrochloric acid (10 mL), 1 N aqueous sodium hydroxide solution (10 mL), and saturated aqueous sodium chloride solution (10 mL). This was then dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by reverse phase high performance liquid chromatography to give the title compound (0.023 g).

reactant | Salicylamide | 0.056 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | cesium carbonate | 0.130 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.005 mL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | 4-[3-benzyl-7-bromo-1-(2-cyanobenzyl)-2-oxo-1H-imidazo[4.5-c]pyridin-4-yl]-piperazine-1-car boxylic acid t-butyl ester | 0.123 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C2=C1N(C(N2CC2=C(C=CC=C2)C#N)=O)CC2=CC=CC=C2)Br | C30H31BrN6O3
solvent | 1-methyl-2-pyrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper(I) chloride | 0.010 g | [Cu]Cl
solvent | t-butyl methyl ether | COC(C)(C)C | C5H12O
product | 4-[3-Benzyl-7-(2-carbamoylphenoxy)-1-(2-cyanobenzyl)-2-oxo-2,3-dihydro-1H-imidazo[4.5-c]p yridin-4-yl]-piperazine-1-carboxylic acid t-butyl ester | 0.023 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C2=C1N(C(N2CC2=C(C=CC=C2)C#N)=O)CC2=CC=CC=C2)OC2=C(C=CC=C2)C(N)=O | C37H37N7O5
